Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I'm in a court case with police for illegal wire tapping, I was 
videotaping a police action and got arrested for it."
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ year old female with self-reported past 
psychiatric history of major depressive disorder, who 
self-reported to the ___ ED this afternoon due to "feeling 
afraid everywhere I go." Psychiatry was consulted for diagnostic 
clarification and treatment recommendation.

On interview, patient states that she was arrested one year ago 
for illegal wire-tapping, after videotaping a police man. She 
states that because of this, over the entire last year she has 
been studying civil law in order to fight the police and stay 
out of jail. She states that she goes to the law library at the 
court house 6 days per week to study law. States that despite 
this, "odd things have been happening," such as the police 
showing up at "dive bars" when she is there, and the security 
officers and librarians at the library looking at her 
suspiciously. She says that there is one particular "fat male 
___" who she believes is out to get her, because he always 
asks her to leave three minutes before closing time, and this 
isn't enough time for her to get her things together. She states 
that she has reported this man several times, but that he is 
still there. States that
today he asked her to leave and she wouldn't leave, so a 
security man came after. States that after this she became very 
afraid and so she left the library and came to the hospital.

She additionally states that she has been carrying around a 
knife due to her fear, and that she has been hiding it sometimes 
at a construction site. States that security guards at the 
library have accused her of having a knife but that she hasn't 
had it with her at the time. States that it was stolen from the 
construction site where she was hiding it.

Patient endorses depressed mood, difficulty concentrating, 
difficulty sleeping (states she sleeps about 78 hours per 
night), decreased PO intake. Additionally endorses increased 
anxiety, paranoia, and feeling consumed by the idea that 
everyone is out to get her. She denies racing thoughts, speaking 
quickly, impulsivity, or elevated mood. She states that she has 
become scared and depressed to the point that she doesn't want 
to live anymore, though she does not have plans to kill herself. 
Denies any homicidal ideation.

Per BEST team, they have no records of her in their system.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses: major depressive disorder
Hospitalizations: two prior hospitalizations in ___ for 
depression
Current treaters and treatment: no current psychiatrist or 
therapist
Medication and ECT trials: nortriptyline
Self-injury: denies
Harm to others: denies
Access to weapons: had a knife, but somebody took it from a 
construction site that she hid in it

PAST MEDICAL HISTORY:
Fatty liver disease, from Tylenol for neck injury
Hypothyroidism
 
Social History:
SOCIAL HISTORY: Patient was raised in ___. Raised by her 
mom and dad, was adopted at <6 months old. Relationship with 
them was "relatively stressful" states that they worked a lot. 
Denies any history of abuse at home. Relationship with mother 
contributed to her depression. Went to college, and got a degree 
in ___. After that worked in ___. Stopped 
working ___ years after started because she couldn't 
concentrate, thinks it was because of her depression. Never got 
married or had kids. States she came to ___ about one year 
ago in order to get medical help for her frequent urination. Is 
staying with friends. 

SUBSTANCE ABUSE HISTORY:
Had a drinking problem in the past, stopped drinking ___ years 
ago. Not currently using any drugs, used marijuana and cocaine 
in the past. Doesn't smoke cigarettes but used to.

FORENSIC HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: Patient states that she is adopted.
 
Physical Exam:
General- well-appearing, poor hygiene, NAD
HEENT- Sclera anicteric. Oropharynx benign. Mucous membranes 
moist.
Neck and Back- Supple. Trachea midline. No spinous process 
tenderness.
Lungs- CTAB
CV- RRR, no murmur
Abdomen: +BS, soft, NTND
Extremities- Warm, no edema
Neuro-
Cranial Nerves-
II: Visual fields full to confrontation. Pupils equally round & 
reactive to light. No relative afferent pupillary defect. 
III,IV,VI: EOMI w/o nystagmus (or diplopia). No ptosis.
V: Sensation intact to light touch. 
VII: Face symmetric without weakness.
VIII: Hears finger rub equally and bilaterally.
IX,X: Voice normal. Palate elevates symmetrically.
XI: SCM and trapezii full.
XII: Tongue protrudes midline.

Motor:  Normal bulk and tone, no tremor, or bradykinesia. Full 
strength in bilateral deltoids, elbow flexion and extension, 
finger flexion, hip flexors, knee flexion and extension, ankle 
dorsi- and  plantarflexion.
Coord: Finger-to-nose-finger movements intact. Finger taps quick 
and symmetric.
Reflex:  Normal and symmetric (1+) in bilat biceps, 
brachioradialis, patella and ankles. 
___:   Intact to LT.
Gait:     Posture, stride, and arm-swing normal. Romberg 
negative.

Neuropsychiatric Examination:
  *Appearance: Caucasian woman, age-appropriate, dressed in 
hospital gown, malodorous, disheveled hair in one large 
dreadlock, wearing pink disposable mask
  Behavior: no signs of psychomotor agitation/retardation. 
Cooperative with interview. Fair eye contact
  *Mood and Affect: "scared" / mildly irritable
  *Thought process: tangential, somewhat disorganized, focused 
on court case and urinary frequency
  *Thought Content: ++paranoia, +passive SI, +AH, denied HI, VH
  *Judgment and Insight: poor/poor
  Cognition:
    *Attention: Names months backwards correctly
    *Orientation: Full (Name, Place and Time/Date).
    *Memory: ___ at 5 minutes
    *Fund of knowledge: knows current ___ and ___ 
___
    Calculations: $2.25 = 9 quarters
    Abstraction: apples/oranges = "fruits"; bikes/trains = 
"carry people"; "Don't judge a book by its cover" = "things are 
not as they appear"
    *Speech: Rapid speech, normal volume; somewhat pressured but 
interruptible
    *Language: Native ___ speaker, no paraphasic errors
 
Pertinent Results:
Chem:
___: Na: 138
___: K: 4.2
___: Cl: 102
___: CO2: 23
___: BUN: 12
___: Creat: 0.7
___: Glucose: 85
CBC: 
___: WBC: 6.4
___: HGB: 13.0
___: HCT: 39.0
___: MCV: 93
___: Plt Count: 234
___: RDW: 12.8

Serum Tox: negative

Utox:
___: Benzodiazepine: NEG
___: Barbiturate: NEG
___: Opiate: NEG
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG
UA:
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): 30
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: 2*
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission. 
She was unit-restricted. During hospitalization, patient made 
inappropriate phone calls to the ___ Police Department, 
nursing supervisors of both ___ and ___, 
numerous calls to ___ and ___ Office of Business Conduct. 
During calls to the nursing supervisors, they were removed from 
emergency code situations. For concerns that patient's 
inappropriate phone use placed others at risk (police and 
medical staff not able to attend to needs of individuals in the 
community and patients in the hospital), a temporary phone 
restriction was placed. Her safety checks was changed to 5 min 
checks to ensure compliance with phone plan. The phone 
restriction was lifted however patient was not able to comply 
with phone plan and left the public phones off the hook denying 
other patients their right to the use the phone. Patient was 
then placed on limited phone access to allow her to speak to her 
lawyers and other legal advocates. Although she was irritable 
and oppositional, refusing to speak to staff, she did not engage 
in any unsafe behavior that placed herself in direct danger. 
There was one instance where she placed hands on a mental health 
aide who was allegedly standing in her way. She was otherwise 
not physically violent. 

LEGAL: ___
PSYCHIATRIC: 
Unspecified psychotic disorder
r/o mood disorder (bipolar vs major depression)
Patient presented feeling overwhelmed, unsafe in the community 
and was concerned that she was being targeted by male 
individuals. On admission, she appeared irritable with rapid 
speech and some disorganization of thought. She was disheveled 
with signs of exposure wearing a disposable face mask. There was 
concern for an underlying psychotic disorder and possibly mood 
disorder (bipolar manic vs mixed state). Patient initially 
accepted treatment and willingly took risperidone 1mg BID. She 
complained of sedation and this dose was consolidated to 
risperidone 2mg QHS with patient consent. Patient then refused 
her medication as she claimed she was not aware of the increased 
dose (same total dose, just consolidated). Patient also 
complained that the kitchen staff did not provide her with her 
correct order. Patient stated that due to her loss of confidence 
in the staff regarding these two issues, she refused all 
treatment including vital sign checks. She signed a 3-day letter 
on ___ as above. When the team attempted to speak to patient 
about discharge when her 3-day expired, patient refused to speak 
to team. Daily attempts were made to engage patient in 
conversation about the treatment plan. Patient would refuse by 
closing to door to her room, walking away, or ignoring staff out 
rightly. A petition was filed for section ___ as above. 
Patient was scheduled for court hearing 3 days after the 
petition was filed however she requested an independent medical 
evaluation which continued the case until ___. When the 
independent medical ___ came to see her, she refused to 
meet with him. While awaiting court hearing, patient continued 
to be oppositional in refusing treatment. She demonstrated 
disorganized behavior such as leaving the faucet running in her 
bathroom, requesting copies of her menu, whiting out her order 
and changing it then complaining to staff that her order did not 
arrive as ordered. This occurred daily despite staff pointing 
out to patient that she had altered her menu to deceive staff. 
She made frequent and numerous phone calls to D___, office of 
business conduct, nursing supervisors, the police (see above 
under SAFETY). She was able to maintain her ADLs most days 
however often appeared disheveled with papers stuff under her 
fleece jacket.  Following team's filing for court commitment on 
pt, patient requested an independent medical evaluation and 
court hearing was continued until ___, during which judge 
determined patient was not in imminent danger to herself or 
others, did not require psychiatric medication against her will, 
 and mandated her immediate d/c ___. 

GENERAL MEDICAL CONDITIONS:
# urinary frequency: Patient complained of urinary frequency 
>20x daily. UA, UCx, BMP, urine osmolality were done and were 
all within normal limits. Work-up was negative for diabetes or 
urinary tract infection. Patient then refused all treatment and 
did not speak to team about any additional symptoms.

# URI: Patient reported she was recovering from a viral 
respiratory illness and was offered guaifenesin and throat 
lozenges as needed.

#"ear blocked": Patient complained of ear fullness and having 
decreased sense of hearing in one ear, however when treatment 
team asked to look in patient's ear, she refused treatment.

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt mostly kept to herself and had minimal 
interactions with staff and peers. There was one report of 
patient confronting a peer and accusing him of taking an orange 
off her food tray. Patient did not attend any groups.

#) COLLATERAL CONTACTS: Patient did not allow treatment team to 
speak to any family or providers.

#) FAMILY INVOLVEMENT: Patient did not allow treatment team to 
speak to any family or providers.

#) INTERVENTIONS:
Offered medications, psychotherapeutic interventions: 
individual, group, and milieu therapy. Patient refused all 
treatment.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient refused any 
pharmacologic treatment as above.

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
- chronic mental illness

#) Modifiable Risk Factors:
- mental illness: patient refused treatment
- homelessness
- unemployment
- poor insight and judgment

#) Protective Factors:
- aware of her resources (self-presented to ED, demonstrated 
ability to call police, DMH, other services)
- intelligence
- no history of suicide attempts, per patient report

PROGNOSIS:
Poor: Patient lacks insight into her mental illness. Due to her 
untreated mental illness, her judgment can be impaired which may 
place her in unsafe situations in the community. She refused all 
treatment while in the hospital and expressed that she would not 
take any medications upon discharge. She denied that she had a 
mental illness.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
unspecified psychotic disorder
r/o mood disorder
r/o schizoaffective disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for feeling unsafe in the 
community.  You refused treatment and a judge has deemed you 
ready for discharge.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___